US05470882
c) 2-(2-Amino-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid
The 2-(2-nitro-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid, ammonium salt (5 g, 11.2 mmol) was dissolved in acetic acid (75 mL). The mixture was diluted with water (75 mL), and a 20 % aqueous solution of titanium trichloride (65 mL) was added. After aqueous workup the crude product was flash chromatographed (silica gel, methylene chloride/ethanol/ammonium hydroxide) to give the title compound. 1H NMR (400 MHz, CD3OD) δ8.02 (s, 1H), 7.17 (d, 1H), 7.12 (d, 1H), 6.94 (dd, 1H), 6.87 (s, 1H).

reactant | 2-(2-nitro-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid, ammonium salt | 11.2 mmol, 5 g | [NH4+].[N+](=O)([O-])C1=C(OC2=C(C=C(C(=C2)Cl)Cl)S(=O)(=O)[O-])C=CC(=C1)C(F)(F)F
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | water | 75 mL | O | H2O
catalyst | titanium trichloride | 65 mL | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 2-(2-Amino-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid | NC1=C(OC2=C(C=C(C(=C2)Cl)Cl)S(=O)(=O)O)C=CC(=C1)C(F)(F)F | C13H8Cl2F3NO4S
